US07786107B2
A mixture of tert-butyl 4-oxo-3,4-dihydro-2H-spiro[naphthalene-1,4′-piperidine]-1′-carboxylate A (1.24 g, 3.93 mmol), hydroxylamine hydrochloride (1.37 g, 19.7 mmol) and sodium acetate trihydrate (3.20 g, 23.5 mmol) in ethanol (50 ml) was heated under reflux for 20 h. The reaction was concentrated and the residue was suspended in water, extracted with dichloromethane (3×). The combined extracts were dried over Na2SO4 and concentrated to give tert-butyl 4-(hydroxyimino)-3,4-dihydro-2H-spiro[naphthalene-1,4′-piperidine]-1′-carboxylate B (1.32 g). LC-MS: m/e=331.1 (M+H, 100%), 275.0 (M+H−C(CH3)3). Rt=3.35 min. 1H-NMR (500 MHz, CDCl3): 8.01 (d, 0.25H), 7.93 (d, 0.75H), 7.41-7.34 (m, 2H), 7.23-7.19 (m, 1H), 3.95-3.92 (m, 2H), 3.04-2.96 (m, 2H), 2.87 (t, 0.5H), 2.82 (t, 1.5H), 2.3 (br. s, 1H), 1.93-1.84 (m, 4H), 1.54-1.52 (d, 2H), 1.43 (s, 9H).

reactant | tert-butyl 4-oxo-3,4-dihydro-2H-spiro[naphthalene-1,4′-piperidine]-1′-carboxylate | O=C1CCC2(CCN(CC2)C(=O)OC(C)(C)C)C2=CC=CC=C12 | C19H25NO3
reactant | hydroxylamine hydrochloride | 19.7 mmol, 1.37 g | Cl.NO
reactant | sodium acetate trihydrate | 23.5 mmol, 3.20 g | O.O.O.C(C)(=O)[O-].[Na+]
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | tert-butyl 4-(hydroxyimino)-3,4-dihydro-2H-spiro[naphthalene-1,4′-piperidine]-1′-carboxylate | ON=C1CCC2(CCN(CC2)C(=O)OC(C)(C)C)C2=CC=CC=C12 | C19H26N2O3
